US07601728B2
tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-cyano-3-methyl-2-(methylthio)-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
Under a nitrogen atmosphere, methyl isothiocyanate (71 μl) and potassium carbonate (143 mg) were added to a solution (2.5 ml) of ethyl 3-amino-5-{(3R)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}-1-(2-chlorobenzyl)-4-cyano-1H-pyrrole-2-carboxylate (260 mg) in pyridine, and the resulting mixture was stirred with heating at 130° C. for 3 hours. After the reaction solution was cooled to 25° C. and then concentrated under reduced pressure, toluene (5 ml) was added thereto and the resulting mixture was concentrated under reduced pressure. This procedure was repeated three times. To the resulting residue was added acetone (2.5 ml), and the resulting mixture was cooled to 0° C. Methyl iodide (65 μl) was added dropwise thereto and the resulting mixture was warmed to 25° C. and stirred for 4 hours. A saturated aqueous ammonium chloride solution was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a silica gel column chromatography (hexane/ethyl acetate=5/1 to 1/1) to obtain the title compound (250 mg).

reactant | methyl isothiocyanate | 71 μl | CN=C=S | C2H3NS
reactant | potassium carbonate | 143 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-amino-5-{(3R)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}-1-(2-chlorobenzyl)-4-cyano-1H-pyrrole-2-carboxylate | 2.5 ml, 260 mg | NC1=C(N(C(=C1C#N)N1C[C@@H](CCC1)NC(=O)OC(C)(C)C)CC1=C(C=CC=C1)Cl)C(=O)OCC | C25H32ClN5O4
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-cyano-3-methyl-2-(methylthio)-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 250 mg | ClC1=C(CN2C(=C(C=3N=C(N(C(C32)=O)C)SC)C#N)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C26H31ClN6O3S
